US05877174
To a mixture of 0.1 g of diphenylmethyl 3-[4-[2-(4-tert-butoxycarbonylamidinobenzoyl)aminoethyl]-2,3-dioxopiperazin-1yl]-3-(pyridin-3-yl)propionate and 1 ml of anisole was added 2 ml of trifluoroacetic acid, and the resulting mixture was stirred at room temperature for 3 hours. Then, the solvent was distilled off under reduced pressure and 2 ml of ethyl acetate, 1 ml of water and 1 ml of acetonitrile were added to the residue. To the resulting mixture was added 0.023 g of sodium hydrogencarbonate, followed by stirring at room temperature for 10 minutes. Thereafter, the aqueous layer was separated and then concentrated to a volume of about 0.5 ml under reduced pressure. The resulting concentrate was purified by a reversed phase column chromatography (eluent: a 10% aqueous acetonitrile solution) to obtain 0.02 g of 3-[4-[2-(4-amidinobenzoyl) aminoethyl]-2,3-dioxopiperazin-1-yl]-3-(pyridin-3-yl) propionic acid as colorless crystals.

reactant | diphenylmethyl 3-[4-[2-(4-tert-butoxycarbonylamidinobenzoyl)aminoethyl]-2,3-dioxopiperazin-1yl]-3-(pyridin-3-yl)propionate | 0.1 g | C(C)(C)(C)OC(=O)NC(=N)C1=CC=C(C(=O)NCCN2C(C(N(CC2)C(CC(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C=2C=NC=CC2)=O)=O)C=C1 | C40H42N6O7
reactant | anisole | 1 ml | C1(=CC=CC=C1)OC | C7H8O
reactant | trifluoroacetic acid | 2 ml | FC(C(=O)O)(F)F | C2HF3O2
product | 3-[4-[2-(4-amidinobenzoyl) aminoethyl]-2,3-dioxopiperazin-1-yl]-3-(pyridin-3-yl) propionic acid | 0.02 g | C(N)(=N)C1=CC=C(C(=O)NCCN2C(C(N(CC2)C(CC(=O)O)C=2C=NC=CC2)=O)=O)C=C1 | C22H24N6O5
